US04478750
3-Allyl-9-fluoro-6-p-fluorophenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole
3.1 ml allyl bromide are added dropwise to 9.0 g of 9-fluoro-6-p-fluorophenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole and 9 g potassium carbonate in 90 ml dimethylformamide. The mixture is stirred for 2 hours at 110° C., cooled to room temperature, poured onto water, and extracted with ether. The ether extracts are concentrated to give the title compound as a residue. M.p. of the hydrochloride 228°-228° (decomp.).

reactant | allyl bromide | 3.1 ml | C(C=C)Br | C3H5Br
reactant | 9-fluoro-6-p-fluorophenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole | 9.0 g | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCNCC3 | C18H16F2N2
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-Allyl-9-fluoro-6-p-fluorophenyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole | C(C=C)N1CCC=2N(C=3C=CC(=CC3C2CC1)F)C1=CC=C(C=C1)F | C21H20F2N2
